US08957074B2
Following general amide formation method 1, 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid (0.150 g, 0.380 mmol) was combined with (S,S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (100 mg, 0.504 mmol, 1.3 eq), which gave 5-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-(S,S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester and used directly in the next step. MS m/z 575.7 (M+H)+.

reactant | 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | 0.380 mmol, 0.150 g | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | (S,S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.504 mmol, 100 mg, 1.3 eq | C(C)(C)(C)OC(=O)N1[C@@H]2CN[C@H](C1)C2 | C10H18N2O2
product | 5-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-(S,S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C30H38N8O4
